US06987116B2
Morpholine (51 μL, 0.58 mmol) is added to a suspension of 2-(4-formylphenyl)-7-[(4-phenoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile (200 mg, 0.45 mmol) in 8 mL of dichloromethane and 2 mL of N,N-dimethylformamide. The reaction mixture is cooled to 0° C. and sodium triacetoxyborohydride (474 mg, 2.24 mmol) is added. After stirring at 0° C. for 10 minutes, 2 drops of acetic acid are added and the reaction mixture is allowed to warm to room temperature and stirred for 4 hours. The reaction is quenched by the addition of water and then partitioned between saturated aqueous sodium bicarbonate and dichloromethane. The organic layer is washed with water, dried over sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with ethyl acetate to provide 79 mg of 2-[4-(morpholin-4-ylmethyl)phenyl]-7-[(4-phenoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile as white crystals, mp 254-256° C.; 1H NMR (DMSO-d6) δ 2.36 (s, 4H), 3.51 (s, 2H), 3.58 (s, 4H), 7.04-7.18 (m, 5H), 7.34-7.45 (m, 6H), 7.67 (d, J=8 Hz, 2H), 7.86 (s, 1H), 8.59 (s, 1H), 9.58 (s, 1H); MS 519.2 (M+H)+.

reactant | Morpholine | 0.58 mmol, 51 μL | N1CCOCC1 | C4H9NO
reactant | 2-(4-formylphenyl)-7-[(4-phenoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile | 0.45 mmol, 200 mg | C(=O)C1=CC=C(C=C1)C1=CC2=NC=C(C(=C2S1)NC1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C27H17N3O2S
reactant | sodium triacetoxyborohydride | 2.24 mmol, 474 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | 2-[4-(morpholin-4-ylmethyl)phenyl]-7-[(4-phenoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile | 79 mg | N1(CCOCC1)CC1=CC=C(C=C1)C1=CC2=NC=C(C(=C2S1)NC1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C31H26N4O2S
